data/rdb19/train.csv
rxn,smiles,ea
3898,[C:13]([C:14]([C:15]([H:16])[H:17])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[C:15]([C:14]([C:13]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:16])[H:17].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9],53.84584565582918
4413,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14]([C:15](=[C:16]([H:25])[H:26])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]([O:5])([O:6][H:12])[H:27])([H:7])([H:8])[H:9],56.68988437962253
3939,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:13]([C:14](=[C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4][H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][H:23],54.36761746439152
5423,[C:17]([C:18]([C:19]([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([C:3]1=[C:4]([H:12])[C:5]([H:13])[C:6]([H:14])([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([H:20])[N:21]([C:22](=[O:23])[H:30])[H:29])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],19.149988978228063
133,[C:12]([O:13][C:14](=[C:15]([H:20])[H:21])[H:19])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:14]([O:13][C:12]([H:16])([H:17])[H:18])([C:15]([H:20])[H:21])[H:19])([H:6])([H:7])[H:8],22.92993385635782
2105,[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:13]([C:12]([C:11]([H:17])([H:18])[H:19])([H:20])[H:21])([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:6])[H:7]>>[C:11]([C:12]([H:20])[H:21])([H:17])([H:18])[H:19].[N:1]([C:2]1([C:4](=[C:5]([H:9])[H:10])[H:8])[O:3][C:13]1([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:6])[H:7],57.30374537891476
1840,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])[H:28])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:29])([H:11])[H:12])([H:8])([H:9])[H:10],23.127511385595422
459,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([O:8][C:9](=[C:10]([H:15])[H:16])[H:14])([H:11])([H:12])[H:13]>>[C:1]([O:2][O:3][H:14])([H:4])([H:5])[H:6].[C:7]([O:8][C:9]=[C:10]([H:15])[H:16])([H:11])([H:12])[H:13],30.68690556450747
18,[C:12]([C:13]([C:14]([C:15]([H:24])([H:25])[H:26])([C:16]([C:17]([H:29])([H:30])[H:31])([H:27])[H:28])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:15]([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:14]([C:13]([C:12]([H:18])([H:19])[H:20])([H:21])[H:22])([C:16]([C:17]([H:29])([H:30])[H:31])([H:27])[H:28])[H:23])([H:6])([H:7])[H:8],77.98256014008075
2723,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:21]([C:20]([H:26])([H:27])[H:28])([C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:13])[H:14])([H:10])([H:11])[H:12],20.559615987935103
3715,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][C:22]1([H:30])[C:21]([H:29])[C:20]([H:28])=[C:19]([C:18](=[C:17]([H:25])[H:26])[H:27])[C:24]([H:32])=[C:23]1[H:31],38.38197650259826
222,[C:12](=[C:13]([N:14]([C:15](=[O:16])[H:21])[H:20])[H:19])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:15]([N:14]([C:13](=[C:12]([H:17])[H:18])[H:19])[H:20])([O:16])[H:21])([H:6])([H:7])[H:8],31.66707323869923
